US07435822B2
8-(3-Methyl-but-2-enyl)-3-(phenyl-thiophen-3-yl-methylene)-8-aza-bicyclo[3.2.1]octane
To 100 mg (355 μmol) of 3-(phenyl-thiophen-3-yl-methylene)-8-aza-bicyclo[3.2.1]octane in 1 mL of acetonitrile was added 98 mg (710 μmol) of K2CO3 and 41 μL (355 μmol) of 4-bromo-2-methyl-2-butene at room temperature. The reaction mixture was allowed to stir overnight at room temperature. Next day, the crude was filtered and washed with acetonitrile. The combined filtrates were concentrated. The concentrated sample was purified by reverse phase chromatography (20×100 mm J'sphere H-80 YMC column using a gradient of 0.1% TFA/water to 5% water/0.1% TFA/acetonitrile). The eluent was evaporated to yield the title compound as a white solid; MS m/z (MH+) 350; 1H NMR 300 MHz (MeOD-d4) δ 6.87-7.39 (m, 8H), 5.35 (t, 1H), 3.94-4.00 (m, 2H), 3.29-3.31 (m, 2H), 2.58-2.89 (m, 4H), 1.62-2.25 (m, 10H).

reactant | 3-(phenyl-thiophen-3-yl-methylene)-8-aza-bicyclo[3.2.1]octane | 355 μmol, 100 mg | C1(=CC=CC=C1)C(=C1CC2CCC(C1)N2)C2=CSC=C2 | C18H19NS
reactant | K2CO3 | 710 μmol, 98 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromo-2-methyl-2-butene | 355 μmol, 41 μL | BrCC=C(C)C | C5H9Br
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 8-(3-Methyl-but-2-enyl)-3-(phenyl-thiophen-3-yl-methylene)-8-aza-bicyclo[3.2.1]octane | CC(=CCN1C2CC(CC1CC2)=C(C2=CSC=C2)C2=CC=CC=C2)C | C23H27NS
